US04652652
To a solution of 2-(2-amino-4-thiazolyl)malonic acid diethyl ester in t-butyl pyrocarbonate (2.25 equivalents). After stirring at 80° C. overnight, the mixture is diluted with ethyl acetate, washed with diluted hydrochloric acid, aqueous sodium hydrogen carbonate, and water, dried and concentrated under vacuum to give 2-(2-t-butoxycarbonylamino-4-thiazolyl)malonic acid diethyl ester. Yield: 73.3%.

reactant | 2-(2-amino-4-thiazolyl)malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)C=1N=C(SC1)N)=O | C10H14N2O4S
reactant | t-butyl pyrocarbonate | 2.25 equivalents | C(OC(C)(C)C)(=O)OC(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-t-butoxycarbonylamino-4-thiazolyl)malonic acid diethyl ester | Yield: 73.3% | C(C)OC(C(C(=O)OCC)C=1N=C(SC1)NC(=O)OC(C)(C)C)=O | C15H22N2O6S
